US05104892
Step 4) Preparation of N-[4-(3-Iodo-1-propylthio)phenyl]methanesulfonamide
A solution of N-[4-(3-chloro-1-propylthio)phenyl]methanesulfonamide (4.0 g, 0.014 mol) and sodium iodide (6.4 g 0.043 mol) in acetone (55 mL) was heated under reflux for 18 hours. The mixture was concentrated, taken up in EtOAc, washed with brine, 10% aqueous sodium bisulfite, brine, dried (MgSO4), and concentrated to give 4.8 g (91%) of product as an off-white and solid m.p. 59°-63° C.

reactant | N-[4-(3-chloro-1-propylthio)phenyl]methanesulfonamide | 0.014 mol, 4.0 g | ClCCCSC1=CC=C(C=C1)NS(=O)(=O)C | C10H14ClNO2S2
reactant | sodium iodide | 0.043 mol, 6.4 g | [I-].[Na+]
solvent | acetone | 55 mL | CC(=O)C | C3H6O
product | N-[4-(3-Iodo-1-propylthio)phenyl]methanesulfonamide | 4.8 g, 91% | ICCCSC1=CC=C(C=C1)NS(=O)(=O)C | C10H14INO2S2
